US05674678
After the culture, each 1 ml of culture medium was added 15 μl of toluene and shaked at 37° C. for 30 minutes. After shaking, the culture medium was diluted 10 to 100 times in order to measure the produced amount of β-galactosidase. One ml of the solution was taken out and shaked at 30° C. for 5 minutes, followed by addition of 3.5 ml of 0.2M phosphate buffer (pH 7.25) and 0.5 ml of 0.01M O-nitrophenyl-β-D-galactopyranoside (ONPG) and 10 minutes' shaking. After sampling 1 ml of the solution and stopping the reaction by placing it in 1M Na2CO3, 8 ml of water was added thereto so as to make the whole amount 10 ml. The absorbance of this sample was measured at 420 nm by using a spectrophotometer. The amount of O-nitrophenol (ONP) produced was calculated from the standard curves of ONT. In this case, the β-galactosidase activity for decomposing 1 μmole of ONPG per minute was defined as one unit (U).

reactant | toluene | 15 μl | C1(=CC=CC=C1)C | C7H8
reactant | phosphate | 0.2M, 3.5 ml, pH 7.25 | P(=O)([O-])([O-])[O-]
reactant | O-nitrophenyl-β-D-galactopyranoside | 0.01M, 0.5 ml | C1=CC=C(C(=C1)[N+](=O)[O-])OC2C(C(C(C(O2)CO)O)O)O | C12H15NO8
reactant | water | 8 ml | O | H2O
solvent | Na2CO3 | 1M | C(=O)([O-])[O-].[Na+].[Na+]
product | O-nitrophenol | [N+](=O)([O-])OC1=CC=CC=C1 | C6H5NO3
